US08058285B2
0.57 g (1.4 mmol) 7-(3,4-dimethoxyphenyl)-9-methyl-2-propyl-pyrido[3′,2′:4,5]thieno-[3,2-d]pyrimidin-4-one is refluxed in 8 ml (86.4 mmol) phosphoroxychloride for 9 h. Then, the product is poured onto about 50 g ice water. The precipitate is sucked off, washed with about 250 ml water, suck dried and dried in vacuo at 50° C. 0.58 g (96%) 4-chloro-7-(3,4-dimethoxyphenyl)-9-methyl-2-propyl-pyrido[3′,2′:4,5]-thieno[3,2-d]pyrimidine is obtained.

reactant | 7-(3,4-dimethoxyphenyl)-9-methyl-2-propyl-pyrido[3′,2′:4,5]thieno-[3,2-d]pyrimidin-4-one | 1.4 mmol, 0.57 g | COC=1C=C(C=CC1OC)C=1C=C(C2=C(SC3=C2N=C(NC3=O)CCC)N1)C | C21H21N3O3S
reactant | phosphoroxychloride | 86.4 mmol, 8 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-(3,4-dimethoxyphenyl)-9-methyl-2-propyl-pyrido[3′,2′:4,5]-thieno[3,2-d]pyrimidine | 0.58 g, 96% | ClC=1C2=C(N=C(N1)CCC)C1=C(S2)N=C(C=C1C)C1=CC(=C(C=C1)OC)OC | C21H20ClN3O2S
